US06069156
To a suspension of 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxamide (36.5 mg) in ethanol (5 ml) was added hydroxylamine hydrochloride (70 mg) and sodium acetate (200 mg), and the mixture was heated in a sealed tube at 100° C. The reaction was evaporated in vacuo, then the residue was diluted with ethyl acetate and washed with water and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give 1-(2-chlorobenzyl)-3-(1-hydroxyiminoethyl)-2-propylindole-6-carboxamide (32.7 mg).

reactant | 3-acetyl-1-(2-chlorobenzyl)-2-propylindole-6-carboxamide | 36.5 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)N)CC1=C(C=CC=C1)Cl)CCC | C21H21ClN2O2
reactant | hydroxylamine hydrochloride | 70 mg | Cl.NO
reactant | sodium acetate | 200 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(2-chlorobenzyl)-3-(1-hydroxyiminoethyl)-2-propylindole-6-carboxamide | 32.7 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)N)C(C)=NO)CCC)C=CC=C1 | C21H22ClN3O2
